2147-11-15 07:29:00 Physician Resident Progress Note
Chief Complaint: "I want to walk around."
   24 Hour Events:
 PICC LINE - START [**2147-11-14**] 10:00 PM
   Admitted to ICU from floor for monitoring of K and Mg, which are
   depleted secondary to amphotericin B treatment of crytococcal
   meningitis. Received additional 80 mEq/L of K starting at 3AM because K
   had not changed.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2147-11-15**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 76 (57 - 80) bpm
   BP: 114/66(76) {105/63(71) - 123/70(80)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    798 mL
                                                                  1,227 mL
   PO:
             TF:
   IVF:
                                                                    798 mL
                                                                  1,227 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                  1,400 mL
   Urine:
                                                                    940 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -142 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   308 K/uL
   11.2 g/dL
   114 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.1 mEq/L
   6 mg/dL
   108 mEq/L
   139 mEq/L
   30.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2147-11-15**]  02:56 AM
   WBC
   5.7
   Hct
   30.3
   Plt
   308
   Cr
   0.7
   Glucose
   114
   Other labs: Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 year old male with h/o HIV, off HAART X3 months (last CD4 200s),
   admitted [**11-4**] with severe HAs X 5 days, found to have cryptococcal
   mennigitis, getting daily LPs for elevated ICP until [**11-10**]. Now with
   refractory hypokalemia likely secondary to ambisome.
   .
   # Hypokalemia: Urinary K+ loss secondary to ambisome. After discussion
   with pharmacy, plan to replete w/ continuous IV KCl at a rate of
   10mEq/hr until adequately repleted, then may decrease rate. Also will
   avoid po KCl as this has give him significant nausea/GI upset. Received
   60 mEq in 1L NS over 6 hrs last night with no improvement in K+. This
   was followed by 80 mEq in 1L NS over 6hrs that is currently running.
   - Increase to KCl at 12-15 mEq/hr and recheck q6hrs - next check due at
   9AM
   - replete Mg aggressively, start with 4gm q6hr, reassess
 currently
   normal at 2.3mg/dL. Will recheck at 9AM and redose as needed.
   - monitor on telemetry
   .
   # Cryptococcal Meningitis: Headaches have resolved completely. previous
   elevated opening pressures, now stablized. Last LP showed decreased
   pressure with elevated WBC but no organisms so far on gram stain or
   culture. The CSF crypto titer >1:64 but this is expected as it may
   change in 2 weeks. Patient is clinically asymptomatic with perfect
   clinical picture and no growth on cultures.
   - appreciate ID following patient.
   - plan to repeat LP w/ opening pressure [**11-16**], last dose 10/17
   - cont flucytosine 1500mg PO q6 (day11), ambisone 400mg IV q24h (day
   [**12-15**]).
   - follow LFTs
   - cont toradol 30mg IV q8 ATC and dilaudid 2mg q3IV prn with bowel
   regimen, zofran and ativan q6 ATC and compazine prn
   .
   # HIV, previously on HAART, but off X 3 months [**3-4**] dysphagia/vomiting
   as well as noncompliance per OSH HIV doctor. No h/o AIDS defining
   illnesses until now.
   -VL 100K, CD4 count is 116, which is higher than expected for someone
   with crypo meningitis
   - treating crypto meningitis as above, will need flucon after
   - started bactrim DS qd proph per ID - switched to liquid formulation.
   -will defer to his outpt HIV MDs regarding restarting ART.
   .
   # Hypomagnesemia: Replete as above, Mg sulfate IV 4gm q 4 hrs until
   repleted.
   .
   # Dysphagia X 3 months, intermittent, with liquids and solids/pills a/w
   pain (during episodes only) and vomiting. No odynophagia. s/p EGD and
   barium swallow 1 month ago, unremarkable. Mostly issues with swallowing
   pills.
   - has been tolerating some of oral meds here, main one is flucytosine.
   not tolerating bactrim (too big), ok with liquid formulation
   - hold on GI consult inpatient unless acute issue, he has GI f/u
   .
   # Depression: Continue seroquel 25 mg qhs.
   .
   # Tobacco abuse: Declining nicotine patch
   .
   # FEN/proph: monitor lytes as above, gen diet as tolerated, TEDs/SCDs,
   no need for PPI, bowel regimen, will ask for PICC placement for easier
   access.
   .
   #Dispo/Code: Full code. Note, family not aware of diagnosis of HIV.
   Partner is aware. Likely D/C on Friday after last dose of ambisome.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2147-11-15 11:15:00 Physician Resident Progress Note
Chief Complaint: "I want to walk around."
   24 Hour Events:
 PICC LINE - START [**2147-11-14**] 10:00 PM
   Admitted to ICU from floor for monitoring of K and Mg, which are
   depleted secondary to amphotericin B treatment of crytococcal
   meningitis. Received additional 80 mEq/L of K starting at 3AM because K
   had not changed.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2147-11-15**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 76 (57 - 80) bpm
   BP: 114/66(76) {105/63(71) - 123/70(80)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    798 mL
                                                                  1,227 mL
   PO:
             TF:
   IVF:
                                                                    798 mL
                                                                  1,227 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                  1,400 mL
   Urine:
                                                                    940 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -142 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   308 K/uL
   11.2 g/dL
   114 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.1 mEq/L
   6 mg/dL
   108 mEq/L
   139 mEq/L
   30.3 %
   5.7 K/uL
        [image002.jpg] K+ = 3.9 at 9:44AM
                            [**2147-11-15**]  02:56 AM
   WBC
   5.7
   Hct
   30.3
   Plt
   308
   Cr
   0.7
   Glucose
   114
   Other labs: Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 year old male with h/o HIV, off HAART X3 months (last CD4 200s),
   admitted [**11-4**] with severe HAs X 5 days, found to have cryptococcal
   mennigitis, getting daily LPs for elevated ICP until [**11-10**]. Now with
   refractory hypokalemia likely secondary to ambisome.
   .
   # Hypokalemia: Urinary K+ loss secondary to ambisome. Patient received
   KCl 60mEq overnight with no increase in K+. Then began receiving 80mEq
   in 1L. K+ this morning was within normal limits. Plan to continue
   repletion as further losses are expected. Also will avoid po KCl as
   this has give him significant nausea/GI upset.
   - Appreciate Pharmacy input
   - Switch to KCl 30mEq IV TID, hold for K+ > 4.5
   - Recheck at 3pm. Adjust dose as needed.
   - monitor on telemetry
   .
   # Hypomagnesemia: Magnesium within normal limits this morning.
   - Recheck at 3pm. Replete as needed.
   .
   # Cryptococcal Meningitis: Headaches have resolved completely. previous
   elevated opening pressures, now stablized. Last LP showed decreased
   pressure with elevated WBC but no organisms so far on gram stain or
   culture. The CSF crypto titer >1:64 but this is expected as it may
   change in 2 weeks. Patient is clinically asymptomatic with perfect
   clinical picture and no growth on cultures.
   - appreciate ID following patient.
   - plan to repeat LP w/ opening pressure [**11-16**], last dose 10/17
   - cont flucytosine 1500mg PO q6 (day11), ambisone 400mg IV q24h (day
   [**12-15**]).
   - follow LFTs
   - cont toradol 30mg IV q8 ATC and dilaudid 2mg q3IV prn with bowel
   regimen, zofran and ativan q6 ATC and compazine prn
   .
   # HIV, previously on HAART, but off X 3 months [**3-4**] dysphagia/vomiting
   as well as noncompliance per OSH HIV doctor. No h/o AIDS defining
   illnesses until now.
   -VL 100K, CD4 count is 116, which is higher than expected for someone
   with crypo meningitis
   - treating crypto meningitis as above, will need flucon after
   - started bactrim DS qd proph per ID - switched to liquid formulation.
   -will defer to his outpt HIV MDs regarding restarting ART.
   .
   # Dysphagia X 3 months, intermittent, with liquids and solids/pills a/w
   pain (during episodes only) and vomiting. No odynophagia. s/p EGD and
   barium swallow 1 month ago, unremarkable. Mostly issues with swallowing
   pills.
   - has been tolerating some of oral meds here, main one is flucytosine.
   not tolerating bactrim (too big), ok with liquid formulation
   - hold on GI consult inpatient unless acute issue, he has GI f/u
   .
   # Depression: Continue seroquel 25 mg qhs.
   .
   # Tobacco abuse: Declining nicotine patch.
   .
   # FEN/proph: monitor lytes as above, gen diet as tolerated, TEDs/SCDs,
   no need for PPI, bowel regimen, will ask for PICC placement for easier
   access.
   .
   #Dispo/Code: Full code. Note, family not aware of diagnosis of HIV.
   Partner is aware. Likely D/C on Friday after last dose of ambisome.
   ICU Care
   Nutrition: No restrictions.
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU unless current K+ repletion regimen can be adminstered
   on medicine floor.
   11:16

2147-11-16 07:14:00 Physician Resident Progress Note
Chief Complaint: "I'm still here"
   24 Hour Events:
   - Received K+ 40 mEq q8hrs for repletion. K+ = 3.0 at 9pm last night.
   - Continues to walk around unit
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-15**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Denies weakness
   Flowsheet Data as of  [**2147-11-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 86 (63 - 92) bpm
   BP: 112/67(78) {104/62(72) - 127/83(93)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,911 mL
                                                                    633 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,131 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  2,450 mL
   Urine:
                                                                  3,595 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -684 mL
                                                                 -1,817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Good strength in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   308 K/uL
   11.2 g/dL
   114 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.0 mEq/L
   6 mg/dL
   111 mEq/L
   141 mEq/L
   30.3 %
   5.7 K/uL
        [image002.jpg] 6:19AM: K+=3.5, Mg=2.4
                            [**2147-11-15**]  02:56 AM
   WBC
   5.7
   Hct
   30.3
   Plt
   308
   Cr
   0.7
   Glucose
   114
   Other labs: Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 year old male with h/o HIV, off HAART X3 months (last CD4 200s),
   admitted [**11-4**] with severe HAs X 5 days, found to have cryptococcal
   mennigitis, getting daily LPs for elevated ICP until [**11-10**]. Now with
   refractory hypokalemia likely secondary to ambisome.
   .
   # Hypokalemia: Urinary K+ loss secondary to ambisome. Patient on K+
   40mEq/100ml IV Q8hrs with sliding scale. Plan to continue repletion as
   further losses are expected. Also will avoid po KCl as this has give
   him significant nausea/GI upset.
   - Appreciate Pharmacy input
   - Recheck Q12hrs
   - monitor on telemetry
   .
   # Hypomagnesemia: Magnesium within normal limits this morning. On
   sliding scale.
   - Recheck Q12hrs.
   .
   # Cryptococcal Meningitis: Headaches have resolved completely. previous
   elevated opening pressures, now stablized. Last LP showed decreased
   pressure with elevated WBC but no organisms so far on gram stain or
   culture. The CSF crypto titer >1:64 but this is expected as it may
   change in 2 weeks. Patient is clinically asymptomatic with perfect
   clinical picture and no growth on cultures.
   - appreciate ID following patient.
   - plan to repeat LP w/ opening pressure [**11-16**], last dose 10/17
   - cont flucytosine 1500mg PO q6 (day11), ambisone 400mg IV q24h (day
   [**12-15**]).
   - follow LFTs
   - cont toradol 30mg IV q8 ATC and dilaudid 2mg q3IV prn with bowel
   regimen, zofran and ativan q6 ATC and compazine prn
   .
   # HIV, previously on HAART, but off X 3 months [**3-4**] dysphagia/vomiting
   as well as noncompliance per OSH HIV doctor. No h/o AIDS defining
   illnesses until now.
   -VL 100K, CD4 count is 116, which is higher than expected for someone
   with crypo meningitis
   - treating crypto meningitis as above, will need flucon after
   - started bactrim DS qd proph per ID - switched to liquid formulation.
   -will defer to his outpt HIV MDs regarding restarting ART.
   .
   # Dysphagia X 3 months, intermittent, with liquids and solids/pills a/w
   pain (during episodes only) and vomiting. No odynophagia. s/p EGD and
   barium swallow 1 month ago, unremarkable. Mostly issues with swallowing
   pills.
   - has been tolerating some of oral meds here, main one is flucytosine.
   not tolerating bactrim (too big), ok with liquid formulation
   - hold on GI consult inpatient unless acute issue, he has GI f/u
   .
   # Depression: Continue seroquel 25 mg qhs.
   .
   # Tobacco abuse: Declining nicotine patch.
   .
   # FEN/proph: monitor lytes as above, gen diet as tolerated, TEDs/SCDs,
   no need for PPI, bowel regimen, will ask for PICC placement for easier
   access.
   .
   #Dispo/Code: Full code. Note, family not aware of diagnosis of HIV.
   Partner is aware. Likely D/C on Friday after last dose of ambisome.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT: Patient ambulatory
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU while receiving greater than 10mEq/hr of K+

2147-11-16 11:30:00 Physician Resident Progress Note
Chief Complaint: "I'm still here"
   24 Hour Events:
   - Received K+ 40 mEq q8hrs for repletion. K+ = 3.0 at 9pm last night.
   - Continues to walk around unit
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-15**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Denies weakness
   Flowsheet Data as of  [**2147-11-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 86 (63 - 92) bpm
   BP: 112/67(78) {104/62(72) - 127/83(93)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,911 mL
                                                                    633 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,131 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  2,450 mL
   Urine:
                                                                  3,595 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -684 mL
                                                                 -1,817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Good strength in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   308 K/uL
   11.2 g/dL
   114 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.0 mEq/L
   6 mg/dL
   111 mEq/L
   141 mEq/L
   30.3 %
   5.7 K/uL
        [image002.jpg] 6:19AM: K+=3.5, Mg=2.4
                            [**2147-11-15**]  02:56 AM
   WBC
   5.7
   Hct
   30.3
   Plt
   308
   Cr
   0.7
   Glucose
   114
   Other labs: Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 year old male with h/o HIV, off HAART X3 months (last CD4 200s),
   admitted [**11-4**] with severe HAs X 5 days, found to have cryptococcal
   mennigitis, getting daily LPs for elevated ICP until [**11-10**]. Now with
   refractory hypokalemia likely secondary to ambisome.
   .
   # Hypokalemia: Urinary K+ loss secondary to ambisome. Patient on K+
   40mEq/100ml IV Q8hrs with sliding scale. Plan to continue repletion as
   further losses are expected. Also will avoid po KCl as this has give
   him significant nausea/GI upset.
   - Appreciate Pharmacy input
   - Recheck Q12hrs
   - monitor on telemetry
   .
   # Hypomagnesemia: Magnesium within normal limits this morning. On
   sliding scale.
   - Recheck Q12hrs.
   .
   # Cryptococcal Meningitis: Headaches have resolved completely. previous
   elevated opening pressures, now stablized. Last LP showed decreased
   pressure with elevated WBC but no organisms so far on gram stain or
   culture. The CSF crypto titer >1:64 but this is expected as it may
   change in 2 weeks. Patient is clinically asymptomatic with perfect
   clinical picture and no growth on cultures.
   - appreciate ID following patient.
   - plan to repeat LP w/ opening pressure [**11-16**], last dose 10/17
 send
   labs per ID recs
   - cont flucytosine 1500mg PO q6 (day11), ambisone 400mg IV q24h (day
   [**12-15**]).
   - follow LFTs
   - cont toradol 30mg IV q8 ATC and dilaudid 2mg q3IV prn with bowel
   regimen, zofran and ativan q6 ATC and compazine prn
   .
   # HIV, previously on HAART, but off X 3 months [**3-4**] dysphagia/vomiting
   as well as noncompliance per OSH HIV doctor. No h/o AIDS defining
   illnesses until now.
   -VL 100K, CD4 count is 116, which is higher than expected for someone
   with crypo meningitis
   - treating crypto meningitis as above, will need flucon after
   - started bactrim DS qd proph per ID - switched to liquid formulation.
   -will defer to his outpt HIV MDs regarding restarting ART.
   .
   # Dysphagia X 3 months, intermittent, with liquids and solids/pills a/w
   pain (during episodes only) and vomiting. No odynophagia. s/p EGD and
   barium swallow 1 month ago, unremarkable. Mostly issues with swallowing
   pills.
   - has been tolerating some of oral meds here, main one is flucytosine.
   not tolerating bactrim (too big), ok with liquid formulation
   - hold on GI consult inpatient unless acute issue, he has GI f/u
   .
   # Depression: Continue seroquel 25 mg qhs.
   .
   # Tobacco abuse: Declining nicotine patch.
   .
   # FEN/proph: monitor lytes as above, gen diet as tolerated, TEDs/SCDs,
   no need for PPI, bowel regimen, will ask for PICC placement for easier
   access.
   .
   #Dispo/Code: Full code. Note, family not aware of diagnosis of HIV.
   Partner is aware. Likely D/C on Friday after last dose of ambisome.
   ICU Care
   Nutrition: Full
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT: Patient ambulatory
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU while receiving greater than 10mEq/hr of K+
   14:48

2147-11-16 21:51:00 Physician Attending Progress Note
Chief Complaint: hypokalemia
   HPI:
   24 Hour Events:
   K continues to be aggressively repleted.
   Pt walking around unit, feels well.
   No change in exam since admission.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-15**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-16**] 09:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 81 (63 - 114) bpm
   BP: 120/71(83) {104/62(72) - 127/91(97)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,911 mL
                                                                  1,226 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,131 mL
                                                                    986 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  3,850 mL
   Urine:
                                                                  3,595 mL
                                                                  3,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -684 mL
                                                                 -2,624 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.8 g/dL
   375 K/uL
   84 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   106 mEq/L
   138 mEq/L
   35.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2147-11-15**]  02:56 AM
                            [**2147-11-16**]  06:19 AM
   WBC
   5.7
   8.3
   Hct
   30.3
   35.1
   Plt
   308
   375
   Cr
   0.7
   0.8
   Glucose
   114
   84
   Other labs: Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   See admission note by Dr [**Last Name (STitle) 2681**]/[**Doctor Last Name 2683**] for problem list. [**Name2 (NI) **]
   significant changes. Therapeutic LP today for cryptococcal meningitis.
   Continuing aggressive K replacement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2147-11-17 06:52:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2147-11-16**] 02:00 PM
 LUMBAR PUNCTURE - At [**2147-11-16**] 02:54 PM
 CALLED OUT
   - Continued K+ repletion
   - LP in PM with opening pressure=17.5, closing pressure=9
   - ID: No new recs (continue Bactrim, Ambisome, and 5FC)
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2147-11-16**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-17**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 89 (69 - 114) bpm
   BP: 122/72(83) {110/66(79) - 122/91(97)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,920 mL
                                                                  1,377 mL
   PO:
                                                                    490 mL
                                                                  1,040 mL
   TF:
   IVF:
                                                                  1,430 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  4,850 mL
                                                                  1,400 mL
   Urine:
                                                                  4,850 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,930 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   12.8 g/dL
   100 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.3 mEq/L
   5 mg/dL
   106 mEq/L
   137 mEq/L
   35.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2147-11-15**]  02:56 AM
                            [**2147-11-16**]  06:19 AM
                            [**2147-11-17**]  02:13 AM
                            [**2147-11-17**]  03:30 AM
   WBC
   5.7
   8.3
   Hct
   30.3
   35.1
   Plt
   308
   375
   Cr
   0.7
   0.8
   0.7
   0.7
   Glucose
   114
   84
   117
   100
   Other labs: Ca++:8.7 mg/dL, Mg++:2.9 mg/dL, PO4:3.9 mg/dL
[**2147-11-16**] 2:17 pm CSF;SPINAL FLUID      Source: LP TUBE 3.
   GRAM STAIN (Final [**2147-11-16**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
[**2147-11-16**] 2:17 pm CSF;SPINAL FLUID      Source: LP.
                            **FINAL REPORT [**2147-11-16**]**
   CRYPTOCOCCAL ANTIGEN (Final [**2147-11-16**]):
      Patient credited. Minimum 14 day interval for repeat testing.
      REPORTED BY PHONE TO [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2763**] @ 1524 ON [**2147-11-16**].
   Assessment and Plan
   44 year old male with h/o HIV, off HAART X3 months (last CD4 200s),
   admitted [**11-4**] with severe HAs X 5 days, found to have cryptococcal
   mennigitis, getting daily LPs for elevated ICP until [**11-10**]. Now with
   refractory hypokalemia likely secondary to ambisome.
   .
   # Hypokalemia: Urinary K+ loss secondary to ambisome. Patient on K+
   40mEq/100ml IV Q8hrs with sliding scale. Plan to continue repletion as
   further losses are expected. Also will avoid po KCl as this has give
   him significant nausea/GI upset. K+=4.3 today, which is within normal
   limits. Patient received final dose of Ambisome overnight. Will likely
   need K+ monitoring for 24 hours.
   - Appreciate Pharmacy input
   - Recheck Q12hrs
   - monitor on telemetry
   .
   # Hypomagnesemia: Magnesium slightly elevated. On sliding scale.
   - Recheck Q12hrs.
   .
   # Cryptococcal Meningitis: Headaches have resolved completely. previous
   elevated opening pressures, now stablized. Last LP showed decreased
   pressure with elevated WBC but no organisms so far on gram stain or
   culture. The CSF crypto titer >1:64 but this is expected as it may
   change in 2 weeks. Patient is clinically asymptomatic with perfect
   clinical picture and no growth on cultures.  LP performed yesterday
   with opening pressure = 17.5 and closing pressure = 9. Labs sent per ID
   recs.
   - appreciate ID following patient.
   - cont flucytosine 1500mg PO q6 (day11), ambisone 400mg IV q24h (day
   14/14).  Received last dose of Ambisome.
   - cont toradol 30mg IV q8 ATC and dilaudid 2mg q3IV prn with bowel
   regimen, zofran and ativan q6 ATC and compazine prn
   .
   # HIV, previously on HAART, but off X 3 months [**3-4**] dysphagia/vomiting
   as well as noncompliance per OSH HIV doctor. No h/o AIDS defining
   illnesses until now.
   -VL 100K, CD4 count is 116, which is higher than expected for someone
   with crypo meningitis
   - treating crypto meningitis as above, will need flucon after
   - Cont. bactrim DS qd proph per ID
   -will defer to his outpt HIV MDs regarding restarting ART.
   .
   # Dysphagia X 3 months, intermittent, with liquids and solids/pills a/w
   pain (during episodes only) and vomiting. No odynophagia. s/p EGD and
   barium swallow 1 month ago, unremarkable. Mostly issues with swallowing
   pills.
   - has been tolerating some of oral meds here, main one is flucytosine.
   not tolerating bactrim (too big), ok with liquid formulation
   - hold on GI consult inpatient unless acute issue, he has GI f/u
   .
   # Depression: Continue seroquel 25 mg qhs.
   .
   # Tobacco abuse: Declining nicotine patch.
   .
   # FEN/proph: monitor lytes as above, gen diet as tolerated, TEDs/SCDs,
   no need for PPI, bowel regimen, will ask for PICC placement for easier
   access.
   .
   #Dispo/Code: Full code. Note, family not aware of diagnosis of HIV.
   Partner is aware. Likely D/C on Friday after last dose of ambisome.
   Transfer to floor today.
   ICU Care
   Nutrition: Full
   Glycemic Control:
   Lines:
   PICC Line - [**2147-11-14**] 10:00 PM
   22 Gauge - [**2147-11-14**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor